US05861421
To a solution of 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-ethynylcyclohexane (0.14 g, 0.38 mmol) and 3-iodonitrophenol (0.10 g, 0.38 mmol) in piperidine (2 mL) under an argon atmosphere were added tetrakis(triphenylphosphine)palladium(0) (0.02 g, 4%), copper(I) iodide (0.005 g, 6%) and a small crystal of triphenylphosphine. After heating at 70° C. for 0.33 h, the mixture was diluted with dichloromethane, was washed with 1N hydrochloric acid, was dried (magnesium sulfate) and was evaporated. Purification by flash chromatography, eluting with 2:8 ethyl acetate:hexanes, provided 1,1-(ethylenedioxy)-4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(3-nitrophenylethynyl)cyclohexane as an orange wax. 1H-NMR (400MHz, CDCl3) δ 8.29 (s, 1H), 8.16 (d, J=9.0 Hz, 1H), 7.75 (d, J=7.9 Hz, 1H), 7.50 (t, J=8.0 Hz, 1H), 7.26 (d, J=2 Hz, 1H), 7.14 (dd, J=8.3, 2 Hz, 1H), 6.86 (d, J=8.3 Hz, 1H), 4.82 (m, 1H), 4.01 (s, 4H), 3.85 (s, 3H), 2.18 (m, 4H), 2.07 (m, 2H), 1.93 (m, 4H), 1.85 (m, 4H), 1.6 (m, 2H).

reactant | 4-(3-cyclopentyloxy-4-methoxyphenyl)-1,1-(ethylenedioxy)-4-ethynylcyclohexane | 0.38 mmol, 0.14 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CCC2(CC1)OCCO2)C#C | C22H28O4
reactant | 3-iodonitrophenol | 0.38 mmol, 0.10 g | IC=1C(=C(C=CC1)O)[N+](=O)[O-] | C6H4INO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | piperidine | 2 mL | N1CCCCC1 | C5H11N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.005 g | [Cu]I
product | 1,1-(ethylenedioxy)-4-(3-cyclopentyloxy-4-methoxyphenyl)-4-(3-nitrophenylethynyl)cyclohexane | C1OC2(CCC(CC2)(C#CC2=CC(=CC=C2)[N+](=O)[O-])C2=CC(=C(C=C2)OC)OC2CCCC2)OC1 | C28H31NO6
